US07498350B2
(5R)-3-(3-fluoro-4-iodophenyl)-5-[(4-fluoromethyl-1H-1,2,3-triazol-1-yl)methyl]oxazolidin-2-one
A mixture of (5R)-3-(3-fluoro-4-iodophenyl)-5-(4-bromomethyl-1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one (6.94 g, 14.4 mmol), potassium fluoride (4.19 g, 72.1 mmol), and 1-butyl-3-methylimidazolium tetrafluoroborate (18.4 mL) in acetonitrile (250 mL) and water (1.5 mL) was heated to 90° C. overnight. The reaction mixture was diluted with ethyl acetate, washed with water, dried over magnesium sulfate, and evaporated to dryness. The involatile residue was purified by chromatography on silica gel [elution with ethyl acetate] gave the title compound as an off-white amorphous solid (2.7 g, 45%).

reactant | (5R)-3-(3-fluoro-4-iodophenyl)-5-(4-bromomethyl-1H-1,2,3-triazol-1-ylmethyl)-1,3-oxazolidin-2-one | 14.4 mmol, 6.94 g | FC=1C=C(C=CC1I)N1C(O[C@H](C1)CN1N=NC(=C1)CBr)=O | C13H11BrFIN4O2
reactant | potassium fluoride | 72.1 mmol, 4.19 g | [F-].[K+]
reactant | 1-butyl-3-methylimidazolium tetrafluoroborate | 18.4 mL | F[B-](F)(F)F.C(CCC)[N+]1=CN(C=C1)C
solvent | acetonitrile | 250 mL | C(C)#N | C2H3N
solvent | water | 1.5 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (5R)-3-(3-fluoro-4-iodophenyl)-5-[(4-fluoromethyl-1H-1,2,3-triazol-1-yl)methyl]oxazolidin-2-one | 2.7 g, 45% | FC=1C=C(C=CC1I)N1C(O[C@H](C1)CN1N=NC(=C1)CF)=O | C13H11F2IN4O2
